US07244721B2
Step 4. Synthesis of 4,4-dimethylproline (H-Pro(4,4-dimethyl)-OH)
A solution of tert-butyl N-tert-butoxycarbonyl-4,4-dimethylproline in dichloromethane (5 mL) and trifluoroacetic (5 mL) was stirred at room temperature for five hours. The solution was concentrated, dried under high vacuum and taken to the next step without further purification.

reactant | tert-butyl N-tert-butoxycarbonyl-4,4-dimethylproline | C(C)(C)(C)[C@@]1(N(CC(C1)(C)C)C(=O)OC(C)(C)C)C(=O)O | C16H29NO4
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 4,4-dimethylproline | CC1(C[C@H](NC1)C(=O)O)C | C7H13NO2
